US07842688B2
b) Benzyl 3-[4-(3-methoxypropyl)-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-4-(4-phenoxyphenyl)piperidine-1-carboxylate
Analogously to Method D, 0.100 g of benzyl 3-hydroxy-4-(4-phenoxyphenyl)piperidine-1-carboxylate and 0.0753 g of 6-chloromethyl-4-(3-methoxypropyl)-4H-benzo[1,4]oxazin-3-one are reacted. The title compound is obtained as a colourless resin. Rf=0.31 (1:1 EtOAc-heptane); Rt=5.74.

reactant | benzyl 3-hydroxy-4-(4-phenoxyphenyl)piperidine-1-carboxylate | 0.100 g | OC1CN(CCC1C1=CC=C(C=C1)OC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C25H25NO4
reactant | 6-chloromethyl-4-(3-methoxypropyl)-4H-benzo[1,4]oxazin-3-one | 0.0753 g | ClCC=1C=CC2=C(N(C(CO2)=O)CCCOC)C1 | C13H16ClNO3
product | Benzyl 3-[4-(3-methoxypropyl)-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-4-(4-phenoxyphenyl)piperidine-1-carboxylate | COCCCN1C(COC2=C1C=C(C=C2)COC2CN(CCC2C2=CC=C(C=C2)OC2=CC=CC=C2)C(=O)OCC2=CC=CC=C2)=O | C38H40N2O7
